US07612212B2
(According to the procedure of D. Wallace and C. Chen, Tetrahedron Lett., 43, 6987 (2002)) 4-Bromo-2-fluoroaniline (19.0 g, 100 mmol) was reacted with cyclopropyl boronic acid (11.3 g, 131 mmol), palladium(II) acetate (1.12 g, 4.79 mmol), tricyclohexyl phosphine (2.80 g, 13.2 mmol), and potassium phosphate (74.2 g, 265 mmol) in toluene (400 mL) and water (30 mL). The mixture was heated in an oil bath at 100° C. for 2 days, cooled, and the liquid was filtered through a pad of celite. The residual solid in the reaction vessel was triturated with water (200 mL), and the suspension was filtered through celite. The aqueous filtrate was extracted once with hexanes (100 mL), the combined organic layers were dried over anhydrous magnesium sulfate. The dried organic layers were filtered through a silica gel pad, and the pad was washed with 80% v/v dichloromethane in hexanes (250 mL). The filtrates were concentrated in vacuo to give a red oil that was fractionally distilled (Vigreux column, 6 plates). The fraction distilling between 65-73° C. at 6-7 mbar was collected to give 6.8 g (45 mmol, 45%) of 4-cyclopropyl-2-fluoroaniline as a pale yellow liquid.

reactant | 4-Bromo-2-fluoroaniline | 100 mmol, 19.0 g | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
reactant | cyclopropyl boronic acid | 131 mmol, 11.3 g | C1(CC1)B(O)O | C3H7BO2
reactant | tricyclohexyl phosphine | 13.2 mmol, 2.80 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | potassium phosphate | 265 mmol, 74.2 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | toluene | 400 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 30 mL | O | H2O
catalyst | palladium(II) acetate | 4.79 mmol, 1.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-cyclopropyl-2-fluoroaniline | 45 mmol, 6.8 g, 45% | C1(CC1)C1=CC(=C(N)C=C1)F | C9H10FN
